US08314092B2
Add methyl 2,2-dimethyl-3-oxo-propanoate (0.928 g, 7.13 mmoles) in DCM (5 mL) to 7-chloro-2-(methylsulfanyl)-11-(piperazin-1-yl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine (1.0 g, 2.85 mmoles) in DCM (10 mL) and stir under nitrogen for 30 minutes at room temperature. Add sodium triacetoxyborohydride (3 equiv; 1.89 g, 8.56 mmoles) to the reaction mixture and stir under nitrogen overnight at room temperature. Add methanol and apply to an SCX-2 column, wash with methanol and elute with 2M ammonia in methanol. Evaporate the methanol solution to give methyl 3-[4-(7-chloro-2-(methylsulfanyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate (1.23 g, 84%). MS (m/z): 461.12 (M+1).

reactant | methyl 2,2-dimethyl-3-oxo-propanoate | 7.13 mmoles, 0.928 g | CC(C(=O)OC)(C=O)C | C6H10O3
reactant | 7-chloro-2-(methylsulfanyl)-11-(piperazin-1-yl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.85 mmoles, 1.0 g | ClC=1C=CC2=C(CN3C(C(=N2)N2CCNCC2)=CC(=C3)SC)C1 | C17H19ClN4S
reactant | sodium triacetoxyborohydride | 8.56 mmoles, 1.89 g, 3 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-[4-(7-chloro-2-(methylsulfanyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate | 1.23 g, 84% | ClC=1C=CC2=C(CN3C(C(=N2)N2CCN(CC2)CC(C(=O)OC)(C)C)=CC(=C3)SC)C1 | C23H29ClN4O2S
